US04197298
In 350 ml of tetrahydrofuran is dissolved 52 g of methyl 4-bromo-3-oxo-2-methoxyiminobutyrate, followed by addition of 250 ml of water. Then, 89.1 g of sodium acetate trihydrate and 33.2 g of thiourea are added and the mixture is reacted with stirring at room temperature for 18 hours. To this reaction mixture is added 200 ml of a 5% aqueous solution of sodium hydrogen carbonate and the mixture is extracted with ethyl acetate. The organic layer is washed with water, dried and distilled under reduced pressure to remove the solvent. To the residue is added 200 ml of ether and the resultant crystals are collected by filtration. By the above procedure is obtained 24.8 g of methyl 2-(2-aminothiazol-4-yl)-2-methoxyiminoacetate (syn-isomer) as crystals melting at 164.9° C.

reactant | methyl 4-bromo-3-oxo-2-methoxyiminobutyrate | 52 g | BrCC(C(C(=O)OC)=NOC)=O | C6H8BrNO4
reactant | sodium acetate trihydrate | 89.1 g | O.O.O.C(C)(=O)[O-].[Na+]
reactant | thiourea | 33.2 g | NC(=S)N | CH4N2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 350 ml | O1CCCC1 | C4H8O
solvent | water | 250 ml | O | H2O
product | methyl 2-(2-aminothiazol-4-yl)-2-methoxyiminoacetate | 24.8 g | NC=1SC=C(N1)C(C(=O)OC)=NOC | C7H9N3O3S
